US06423713B1
To a solution of 4-(4-(4-pyridyl)-3-(4-fluorophenyl)pyrazolyl)butyric acid (Example C-130) (40 g, 123 mmol) in 650 mL of MeOH was added 20 mL of concentrated H2SO4. The solution was stirred overnight at room temperature. The solution was concentrated and diluted with 200 mL of water. The solution was cooled with an ice/water bath and to the solution was added 150 mL of saturated NaHCO3. The solution was neutralized further with 50% NaOH to pH 7. The resulting slurry was extracted with CH2Cl2 (3×250 mL). The combined extracts were washed with water (1×300 mL) and saturated NaHCO3 (1×500 mL). The organic phase was dried over Na2SO4, filtered and concentrated to afford methyl 4-(4-(4-pyridyl)-3-(4-fluorophenyl)pyrazolyl)butyrate: MS (M+H): 340 (base peak).

reactant | 4-(4-(4-pyridyl)-3-(4-fluorophenyl)pyrazolyl)butyric acid | 123 mmol, 40 g | N1=CC=C(C=C1)C=1C(=NNC1CCCC(=O)O)C1=CC=C(C=C1)F | C18H16FN3O2
reactant | H2SO4 | 20 mL | OS(=O)(=O)O | H2O4S
reactant | MeOH | 650 mL | CO | CH4O
product | methyl 4-(4-(4-pyridyl)-3-(4-fluorophenyl)pyrazolyl)butyrate | N1=CC=C(C=C1)C=1C(=NNC1CCCC(=O)OC)C1=CC=C(C=C1)F | C19H18FN3O2
